US08133889B2
Step A: 5,5-Dimethyl-thiazolidine-2,4-dione
41.4 mmoles of methyl 2-bromo-2-methyl-propionate and 4.56 mmoles of thiourea are dissolved in n-butanol (90 mL) and stirred at 110° C. for 5 hours. The solvent is evaporated to dryness and the residue is taken up in ethanol (120 ml) and HCl (2N, 120 mL) and then heated at reflux for 16 hours. The ethanol is evaporated off and the mixture is diluted with water (120 ml) and then extracted with AcOEt. The organic phase is washed with saturated NaCl solution, dried over magnesium sulphate, filtered and evaporated to dryness. The crystals obtained are washed with pentane, filtered off and dried in vacuo to yield the title product.

reactant | methyl 2-bromo-2-methyl-propionate | 41.4 mmoles | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | thiourea | 4.56 mmoles | NC(=S)N | CH4N2S
reactant | n-butanol | 90 mL | C(CCC)O | C4H10O
product | 5,5-Dimethyl-thiazolidine-2,4-dione | CC1(C(NC(S1)=O)=O)C | C5H7NO2S
